US04409214
A mixture of benzhydryl 7-[N-tert-butoxycarbonyl-2-{2-(2,2,2-trifluoroacetamido)thiazol-4-yl}glycinamido]-3-vinyl-3-cephem-4-carboxylate (2.5 g) and sodium acetate (2.8 g) in tetrahydrofuran (20 ml), acetone (20 ml) and water (40 ml) was stirred at ambient temperature for 2 hours. After the reaction mixture was evaporated, the residue was extracted with ethyl acetate. The extract was washed with an aqueous solution of sodium chloride, dried over anhydrous magnesium sulfate and then evaporated to give a residue, which was subjected to column chromatography on silica gel (50 g). Elution was carried out with methylene chloride and then a mixture of methylene chloride and diethyl ether (9:1 by volume), and the fractions containing the desired compound were collected and evaporated to give benzhydryl 7-[N-tert-butoxycarbonyl-2-(2-aminothiazol-4-yl)glycinamido]-3-vinyl-3-cephem-4-carboxylate (1.0 g).

reactant | benzhydryl 7-[N-tert-butoxycarbonyl-2-{2-(2,2,2-trifluoroacetamido)thiazol-4-yl}glycinamido]-3-vinyl-3-cephem-4-carboxylate | 2.5 g | C(C)(C)(C)OC(=O)N(C(C(N)C=1N=C(SC1)NC(C(F)(F)F)=O)=O)C1[C@@H]2N(C(=C(CS2)C=C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C34H32F3N5O7S2
reactant | sodium acetate | 2.8 g | C(C)(=O)[O-].[Na+]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | acetone | 20 ml | CC(=O)C | C3H6O
solvent | water | 40 ml | O | H2O
product | benzhydryl 7-[N-tert-butoxycarbonyl-2-(2-aminothiazol-4-yl)glycinamido]-3-vinyl-3-cephem-4-carboxylate | 1.0 g | C(C)(C)(C)OC(=O)N(C(C(N)C=1N=C(SC1)N)=O)C1[C@@H]2N(C(=C(CS2)C=C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C32H33N5O6S2
